US07432295B2
Preparation of 2-(2-Nitro-1H-imidazol-1-yl)-N-ally-acetamide
2-(2-nitro-1H-imidazol-1-yl)acetic acid (1.71 g, 10 mmol) was added to N-methylmorpholine (1.01 g, 10 mmol) in 150 ml of dry THF under nitrogen at 0° C. and stirred for 10 minutes until completely dissolved. Isobutyl chloroformate (1.43 mL 11 mmol) added. After 30 minutes, allylamine hydrochloride (1.03 g, 11 mmol) and N-methylmorpholine (1.21 g, 12 mmol) added to the solution and the mixture stirred at room temperature overnight. The solution was then filtered and the organic solvent was evaporated to give a pale yellow solid. Purification by chromatography (silica gel, CH3OH/CHCl3=10:1) gave a white solid (1 g, 48%).

reactant | 2-(2-nitro-1H-imidazol-1-yl)acetic acid | 10 mmol, 1.71 g | [N+](=O)([O-])C=1N(C=CN1)CC(=O)O | C5H5N3O4
reactant | N-methylmorpholine | 10 mmol, 1.01 g | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 11 mmol, 1.43 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | allylamine hydrochloride | 11 mmol, 1.03 g | Cl.C(C=C)N
reactant | N-methylmorpholine | 12 mmol, 1.21 g | CN1CCOCC1 | C5H11NO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(2-Nitro-1H-imidazol-1-yl)-N-ally-acetamide | 1 g, 48% | [N+](=O)([O-])C=1N(C=CN1)CC(=O)NCC=C | C8H10N4O3
